Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Oxycodone / Ragweed
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
___ Exploratory Laparotomy, ___ 

 
History of Present Illness:
___ year old male with history to intestinal sarcoidosis s/p 
Ex.laparoscopy, right colectomy ___ (___), ITP s/p open 
splenectomy, and inguinal hernia repair complaining of new 
abdominal pain that started last night and has now progressed to 
___ with 1 episode of foot particulate emesis. He denies fevers
and chills. He has never had an episode like this before. He 
reports he urinated this am without difficulty.   It is 
difficult for him to breath this am. He also has new bilateral 
shoulder pain with breathing.

 
Past Medical History:
1. Sarcoidosis, dx skin bx: intestinal & pulmonary involvement, 
recurrent iritis
2. Inflammatory bowel disease; s/p ileo-hemicolectomy ___, 
path +sarcoid   
3. GERD.  
4. Hyperlipidemia
5  OSA on CPAP
6. Asthma.  
7. Osteoarthritis.  
8. Fractured pelvis, ___ s/p fall.
9. BPH, status post prostatectomy.  
10. Depression.  
11. History of ITP, status post splenectomy in ___.   
12. Hard of hearing and wears hearing aid.
  
Past Surgical History:  
1. s/p Ex Lap, R hemicolectomy, ileocecal colostomy for 
evaluation ileocecal mass.  
2. Arthroscopic surgery of both knees.  
3. Shoulder surgery.  
4. Hernia repair.  

 
Social History:
___
Family History:
Mother: ___, cardiac disease.  
Father: diverticulosis, peptic ulcer disease, died at age ___.  
Maternal grandfather: ___ cancer.  
Two siblings, living and healthy.  

 
Physical Exam:
Physical Exam upon admission:
Vitals:Temp 97.8, HR 87, BP 119/83, RR 26, 99% Room air
GEN: A&O x3, uncomfortable with movement of stretcher
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Firm abdomen with diffuse peritonitis. Well healed open 
splenectomy, laparscopic right colectomy, and right inguinal 
hernia repair incisions. 
Ext: No ___ edema, ___ warm and well perfused

Physical Exam upon discharge:
VS: 98.1, 72, 152/83, 18, 98%/RA
Gen: NAD, ambulating in room
Heent: EOMI, MMM
Cardiac: Normal S1, S1. RRR
Pulm: Lungs CTAB No 
Abdomen: Soft/nontender/nondistended staples OTA
Ext: + pedal pulses, no CCE
Neuro: AAOx3, normal mentation.

 
Pertinent Results:
___ 05:21AM BLOOD WBC-6.3 RBC-3.17* Hgb-8.4* Hct-27.2* 
MCV-86 MCH-26.4* MCHC-30.7* RDW-22.4* Plt ___
___ 05:26AM BLOOD WBC-8.0 RBC-3.34* Hgb-9.0* Hct-28.5* 
MCV-85 MCH-26.9* MCHC-31.5 RDW-22.7* Plt ___
___ 05:47AM BLOOD WBC-9.8 RBC-3.62* Hgb-9.7* Hct-31.4* 
MCV-87 MCH-26.8* MCHC-30.8* RDW-22.7* Plt ___
___ 10:35AM BLOOD WBC-9.8 RBC-4.27* Hgb-11.4* Hct-37.1* 
MCV-87 MCH-26.8* MCHC-30.8* RDW-22.8* Plt ___
___ 10:35AM BLOOD Neuts-81* Bands-0 Lymphs-12* Monos-3 
Eos-3 Baso-0 Atyps-1* ___ Myelos-0 NRBC-1*
___ 05:21AM BLOOD Glucose-140* UreaN-18 Creat-0.8 Na-138 
K-3.6 Cl-103 HCO3-27 AnGap-12
___ 05:26AM BLOOD Glucose-143* UreaN-18 Creat-0.9 Na-135 
K-4.1 Cl-103 HCO3-24 AnGap-12
___ 05:47AM BLOOD Glucose-84 UreaN-24* Creat-0.8 Na-137 
K-4.7 Cl-105 HCO3-23 AnGap-14
___ 10:35AM BLOOD Glucose-105* UreaN-34* Creat-1.0 Na-140 
K-3.8 Cl-105 HCO3-27 AnGap-12
___ 10:35AM BLOOD ALT-80* AST-54* AlkPhos-290* TotBili-0.5
___ 05:21AM BLOOD Calcium-8.2* Phos-2.9 Mg-1.9
___ 05:26AM BLOOD Calcium-8.1* Phos-2.9 Mg-2.0
___ 05:47AM BLOOD Calcium-8.0* Phos-4.0 Mg-1.7
___ 10:35AM BLOOD Albumin-3.8 Calcium-9.3 Phos-2.6* Mg-1.9
___ 10:42AM BLOOD Lactate-2.0

___   Radiology CHEST (PORTABLE AP) 
IMPRESSION: 
1.  Pneumoperitoneum. 
2.  Widening of the vascular pedicle may be related to low lung 
volumes and intravascular volume status.   

 
Brief Hospital Course:
This is a ___ year old male with history to intestinal 
sarcoidosis s/p right colectomy ___ (___), ITP s/p open 
splenectomy, and inguinal hernia repair who presented to ___ 
complaining of new abdominal pain and emesis. The patient was 
admitted to the Acute Care Surgery service. A Chest Xray 
demonstrated "Free air is present underneath both 
hemidiaphragms". He was taken to the operating room on ___ 
for exploratory laparatomy, which revealed that the patient had 
a perforated duodenal ulcer. Please see operative report for 
full details. The patient was transferred to the surgical floor 
post-operatively in stable condition. A nasogastric tube was 
placed and the patient was kept NPO on POD 1. He received 
intravenous dosing of his home medications. He also was started 
on a proton pump inhibitor that he will continue taking after 
his discharge. The patient's nasogastric tube was discontinued 
on POD 2, however he was kept NPO. His abdominal pain was well 
controlled with a Morphine PCA. He did not complain of any 
nausea or vomiting at this time. On POD 3, the patient was 
advanced to a regular diet and was passing flatus. He was 
restarted on his previous home medications and was receiving an 
oral pain regimen. The patient was also started on a proton pump 
inhibitor to prevent ulcers in the future and was instructed 
never to take NSAIDS. He was evaluated by physical therapy; they 
recommended that the patient have a ___ home safety evaluation 
and that he was cleared to go home. 

On the day of discharge, the patient's vital signs were stable 
and he remained afebrile. He was tolerating a regular diet. His 
staples were open to air without any signs of erythema or 
drainage. They are due to come out ___. He will have 
scheduled followup in the ___.  
 
Medications on Admission:
Prednisone 40'
Alendronate 70'
Azathioprine 50',  
Ergocalciferol 1 capsule/week
Fluoxetine 40'
Vicodin ___,  
simvastatin 20'
Bactrim 400/80'  

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. PredniSONE 40 mg PO DAILY 
3. Alendronate Sodium 70 mg PO QMON 
4. Azathioprine 50 mg PO DAILY 
5. Simvastatin 20 mg PO DAILY 
6. Fluoxetine 40 mg PO DAILY 
7. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*2 Tablet Refills:*0
8. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*30 Tablet Refills:*0
9. Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Perforated Duodenal Ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after you experienced an ducodenal 
ulcer perforation. You were taken to the operating room on 
___ for exploration and placement of ___ patch. 
Post-operatively, you received a 5 day course of antibiotics. 
Upon discharge, you were tolerating a regular diet and your pain 
was well controlled on an oral pain regimen. You will be 
discharged with followup in the ___ in ___ weeks. 

DO NOT TAKE ANY NSAIDS: ie Ibuprofen, Aleve, Advil, Naproxen, 
Aspirin, Motrin

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications , unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.

*Avoid swimming and baths until your follow-up appointment.

*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

*If you have staples, they will be removed at your follow-up 
appointment.

*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___